US20010014691A1
(Methylethyl)(3-(3-pyridyloxy)propyl)amine
The 3-chloro-1-(3-pyridyloxy)propane (0.80 g, 4.66 mmol) was dissolved in methanol (25 mL) and added to diisopropylamine (25 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 100° C. (oil bath temperature) for 4 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (10 mL) was added to the residue, and the solution (pH 6) was extracted with ether (3×25 mL) to remove impurities. The aqueous layer was basified to pH 10 with 10% NaOH solution, and the mixture was extracted with chloroform (4×25 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 0.531 g (58.6%) of a dark-brown oil. The compound exhibits a Ki of 8500 nM. The compound exhibits neurotransmitter release of 16 percent.

reactant | 3-chloro-1-(3-pyridyloxy)propane | 4.66 mmol, 0.80 g | ClCCCOC=1C=NC=CC1 | C8H10ClNO
reactant | diisopropylamine | 25 mL | C(C)(C)NC(C)C | C6H15N
solvent | methanol | 25 mL | CO | CH4O
product | (Methylethyl)(3-(3-pyridyloxy)propyl)amine | 0.531 g, 58.6% | CC(C)NCCCOC=1C=NC=CC1 | C11H18N2O
